* C:\Users\stant\OneDrive\Documentos\LTspice\Analog Electronics\Mod5\Mod5_Problem_2.asc
* Generated by LTspice 24.1.10 for Windows.
Q1 Vc N002 N003 0 2N3904
Rc Vcc Vc 4.5k
R1 Vcc N002 106k
Re N003 0 500
R2 N002 0 12k
V1 Vcc 0 18V
V2 Vin 0 AC 1
C1 N002 Vin 10µF
C2 N003 0 100µF
C3 N001 Vc 10µF
R3 N001 0 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\stant\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 1000 100 100k
.backanno
.end
